US04243807
To a mixture of 28 ml of 30% sdium methanolate solution and 50 ml of methanol are added 14.1 g (0.15 mole) of phenol. The reaction mixture is evaporated in a vacuum and the residue is taken up in 120 ml of N,N-dimethyl formamide, 35.5 g (0.15 mole) of N-benzoyl-4chloromethylpiperidine are added thereto and the reaction mixture is stirred for 12 hours at 60°-70° C. After cooling, the reaction mixture is mixed with diethyl ether, washed with water and dilute aqueous sodium hydroxide solution, dried over anhydrous sodium sulfate and evaporated in a vacuum. The oily residue is triturated with diethyl ether/ligroin. There are obtained 23.0 g of N-benzoyl-4-phenoxymethylpiperidine (52% of theory); m.p. 95°-96° C.

reactant | methanolate | 28 ml | C[O-]
reactant | methanol | 50 ml | CO | CH4O
reactant | phenol | 0.15 mole, 14.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | N-benzoyl-4chloromethylpiperidine | 0.15 mole, 35.5 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCl | C13H16ClNO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-benzoyl-4-phenoxymethylpiperidine | 23.0 g, 52% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)COC1=CC=CC=C1 | C19H21NO2
